US04178460
Preparation of α-Isopropyl-4-trifluoromethylthiophenylacetonitrile
Fifty percent sodium hydroxide (13.5 ml) is added over a 30-minute period dropwise to a suspension of 4-trifluoromethylthiophenylacetonitrile (9.7 g, 0.045 mol), 2-iodopropane (9.5 g, 0.056 mol), and 18 crown-6 (0.61 g, 0.0023 mol) in 13.5 ml of benzene and the exotherm reaches 43° C. After stirring 2.5 hours at ambient temperature, an aliquot placed on glc shows none of the starting nitrile remaining. The reaction is worked up by adding ice water and extracting with ether, which is washed with 10% HCl, water, and dried over sodium sulfate. Evaporation in vacuo gave 10.2 g (86.8%) of a red-brown oil.

reactant | sodium hydroxide | 13.5 ml | [OH-].[Na+]
reactant | 4-trifluoromethylthiophenylacetonitrile | 0.045 mol, 9.7 g | FC(SC1=CC=C(C=C1)CC#N)(F)F | C9H6F3NS
reactant | 2-iodopropane | 0.056 mol, 9.5 g | IC(C)C | C3H7I
solvent | benzene | 13.5 ml | C1=CC=CC=C1 | C6H6
product | α-Isopropyl-4-trifluoromethylthiophenylacetonitrile | 10.2 g, 86.8% | C(C)(C)C(C#N)C1=CC=C(C=C1)SC(F)(F)F | C12H12F3NS
